US08202891B2
3-(2-Bromoethyl)phenol
A solution of 1-(2-bromoethyl)-3-methoxybenzene (1.00 g, 4.7 mmol) in CHCl3 (50 mL, 0.6 mol) was cooled to at 0° C. 1.0 M of BBr3 in DCM (27.9 mL) was cooled to 0° C. and added to the solution. The solution was allowed to warm to 30° C. over 30 minutes, then was poured into a solution of ice and 30% NH4OH, which was stirred at 0° C. for 30 minutes. The organic layer was taken and concentrated with no reduced pressure.

reactant | 1-(2-bromoethyl)-3-methoxybenzene | 4.7 mmol, 1.00 g | BrCCC1=CC(=CC=C1)OC | C9H11BrO
reactant | CHCl3 | 0.6 mol, 50 mL | C(Cl)(Cl)Cl | CHCl3
reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | NH4OH | [NH4+].[OH-]
solvent | DCM | 27.9 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Bromoethyl)phenol | BrCCC=1C=C(C=CC1)O | C8H9BrO
